US05874472
A 50% solution of concentrated hydrochloric acid in water (40 mls) was added to 3-guanidino-benzyldiethylacetamidomalonate (910 mg, 2.5 mmol). The reaction mixture was stirred at reflux for 15 hours. The solvent was evaporated to a third of the volume and the crude product purified by ion exchange chromatography (Dowex AG 50W-X8, 100-200 mesh resin, 16 ml wet bed volume), eluting with 0.1M ammonia solution to give a tan glass/oil. Futher purified by flash column chromatography (10% 880 ammonia/methanol) gave 3-guanidino-DL-phenylalanine (240 mg, 43%) as a tan glass.

reactant | hydrochloric acid | Cl | ClH
reactant | 3-guanidino-benzyldiethylacetamidomalonate | 2.5 mmol, 910 mg | N(C(=N)N)C=1C=C(CC(C(=O)[O-])(C(=O)[O-])NC(C(CC)CC)=O)C=CC1
solvent | water | 40 mls | O | H2O
product | 3-guanidino-DL-phenylalanine | 240 mg, 43% | N(C(=N)N)C=1C=C(CC(N)C(=O)O)C=CC1 | C10H14N4O2
